.title pvt_PLO
.include "../../../autohv_bicmos180_case.lib"
.param case=0
.option num_threads=2
Vdd vdd 0 5.0
Vin in 0 PULSE(0 5.0 20n 0.02n 0.02n 80n 400n)
XI1 nIN in vdd vdd PMOS50 W=1.15u L=0.5u
XI2 nIN in 0   0   NMOS50 W=0.5u L=0.5u
XR nIN nC RPOLY_HI L=55.9375u W=0.5u
XC nC 0 CMIM_HI L=5.3600u W=5.3600u
XBP nC in 0 0 NMOS50 W=1.0u L=0.5u
XS1 s1 nC 0   0   NMOS50 W=0.5u L=0.5u
XS2 dco nC s1 0 NMOS50 W=0.5u L=0.5u
XS3 s2 nC vdd vdd PMOS50 W=1.15u L=0.5u
XS4 dco nC s2 vdd PMOS50 W=1.15u L=0.5u
XS5 vdd dco s1 0   NMOS50 W=0.5u L=0.5u
XS6 0   dco s2 vdd PMOS50 W=1.15u L=0.5u
XPI1 dbar dco vdd vdd PMOS50 W=1.15u L=0.5u
XPI2 dbar dco 0   0   NMOS50 W=0.5u L=0.5u
XG1 p1  in   vdd vdd PMOS50 W=1.15u L=0.5u
XG2 nnr dbar p1  vdd PMOS50 W=1.15u L=0.5u
XG3 nnr in   0   0   NMOS50 W=0.5u L=0.5u
XG4 nnr dbar 0   0   NMOS50 W=0.5u L=0.5u
XO1 out nnr vdd vdd PMOS50 W=1.15u L=0.5u
XO2 out nnr 0   0   NMOS50 W=0.5u L=0.5u
CL out 0 5.0f
.control
foreach cs 0 1 2 3 4
 foreach vd 3.200 5.000 5.500
  foreach tp -55 27 150
   alterparam case=$cs
   reset
   alter Vdd dc=$vd
   alter Vin pulse=[ 0 $vd 20n 0.02n 0.02n 80n 400n ]
   option temp=$tp
   let h=$vd/2
   let v10=0.1*$vd
   let v90=0.9*$vd
   tran 0.05n 200n
   meas tran m trig v(out) val=$&h fall=1 td=99n targ v(out) val=$&h rise=1 td=99n
   meas tran fe trig v(in) val=$&h rise=1 targ v(out) val=$&h rise=1
   meas tran tr trig v(out) val=$&v10 rise=1 td=99n targ v(out) val=$&v90 rise=1 td=99n
   meas tran tf trig v(out) val=$&v90 fall=1 td=99n targ v(out) val=$&v10 fall=1 td=99n
   echo "RES cs=$cs vd=$vd tp=$tp m=$&m fe=$&fe tr=$&tr tf=$&tf"
  end
 end
end
.endc
.end
